US07541372B2
4-{4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-morpholine
As described for example 106, 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine (100 mg, 0.23 mmol) using morpholine instead of dimethylamine hydrochloride and potassium carbonate was converted to the title compound (100 mg, 90%) which was obtained as an off-white solid. MS: m/e=490.3 [M+H]+.

reactant | 4-{4-[5-(5-chloro-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3-methoxy-phenyl}-morpholine | 0.23 mmol, 100 mg | ClC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=C(C=C(C=C1)N1CCOCC1)OC | C22H19ClN4O4
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-{4-[5-(2-Methoxy-4-morpholin-4-yl-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-morpholine | 100 mg, 90% | COC1=C(C=CC(=C1)N1CCOCC1)C1=NN=C(O1)C=1C(=NOC1N1CCOCC1)C1=CC=CC=C1 | C26H27N5O5
